US20010006969A1
2-Allylamino-7-methyl-4-(2,2-dimethylhydrazino)thieno[ 3,2-d]pyrimidine
150 mg (0.62 mmol) of 2-chloro-7-methyl-4-(2,2-dimethylhydrazino)thieno[ 3,2-d]pyrimidine and 564 mg (9.89 mmol) of allylamine were heated in a sealed tube at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=½) to give 151 mg (yield: 92.6%) of the title compound.

reactant | 2-chloro-7-methyl-4-(2,2-dimethylhydrazino)thieno[ 3,2-d]pyrimidine | 0.62 mmol, 150 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)NN(C)C | C9H11ClN4S
reactant | allylamine | 9.89 mmol, 564 mg | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-Allylamino-7-methyl-4-(2,2-dimethylhydrazino)thieno[ 3,2-d]pyrimidine | 151 mg, yield: 92.6% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NN(C)C | C12H17N5S
